US06642389B2
In analogy to the procedure described in example 17 a], [rac]-2-ethoxy-3-(4-hydroxy-3-methoxy-phenyl)-propionic acid ethyl ester was reacted with 2-(2-phenyl-5-methyl-oxazol-4yl)-ethanol in the presence of triphenylphosphine and DBAD (di-tert-butyl azodicarboxylate) to yield [rac]-2-ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methoxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)OC)OCC)=O | C14H20O5
reactant | 2-(2-phenyl-5-methyl-oxazol-4yl)-ethanol | C1(=CC=CC=C1)C=1OC(=C(N1)CCO)C | C12H13NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBAD | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | [rac]-2-ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OC)OCC)=O | C26H31NO6
